US05340701
Preparation of 6-chloro-4-(3-methylbut-1-oxy)-2-phenylpyrimidine
The reaction is carried out under an argon protective-gas atmosphere. A solution of 6.7 g (60.5 mmol) of sodium t-amylate in 50 ml of 3-methylbutanol is added dropwise to a solution, cooled to 0° C., of 12.4 g of 4,6-dichloro-2-phenylpyrimidine in 50 ml of 3-methylbutanol. The reaction mixture is allowed to warm to 25° C. overnight. Thin-layer chromatography shows the absence of starting material. The reaction mixture is poured into 180 ml of water and extracted three times with 80 ml of ethyl acetate. Combined organic phases are washed with water, dried using MgSO4 and filtered. Removal of the solvent gives 14.6 g (96% of theory) of the title compound.

reactant | 4,6-dichloro-2-phenylpyrimidine | 12.4 g | ClC1=NC(=NC(=C1)Cl)C1=CC=CC=C1 | C10H6Cl2N2
reactant | water | 180 ml | O | H2O
solvent | 3-methylbutanol | 50 ml | CC(CCO)C | C5H12O
solvent | 3-methylbutanol | 50 ml | CC(CCO)C | C5H12O
product | 6-chloro-4-(3-methylbut-1-oxy)-2-phenylpyrimidine | ClC1=CC(=NC(=N1)C1=CC=CC=C1)OCCC(C)C | C15H17ClN2O
